US05808062
3-[(3-Chlorophenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.95 g, 10.14 mmol) and diethyl ester of [(3-chlorophenyl)thio]propanedioic acid (1.53 g, 5.07 mmol). m.p. 181°-182° C.; 1H NMR (400 MHz, DMSO-d6) δ 6.88 (s, 1H), 7.13 (dt, 2H), 7.19 (dt, 1H), 7.29 (t, 1H), 7.56 (m, 3H), 7.86 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 10.14 mmol, 1.95 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(3-chlorophenyl)thio]propanedioic acid | 5.07 mmol, 1.53 g | ClC=1C=C(C=CC1)SC(C(=O)O)C(=O)O | C9H7ClO4S
product | 3-[(3-Chlorophenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | ClC=1C=C(C=CC1)SC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C17H11ClO3S
